US08049016B2
4-Methyl-2-(2-nitrophenylamino)thiazole-5-carboxylate (0.45 g, 1.46 mmol), tin(II) chloride dehydrate (1.66 g, 7.34 mmol) and tetrahydrofuran (25 mL) was added to a 100-mL round bottom flask. The mixture was refluxed at 75-85° C. for 3 h, cooled down to 0° C. and followed by the addition of saturated aqueous sodium carbonate solution (16 mL). The mixture was filtered through a celite cake and the filtrate was washed with saturated aqueous sodium carbonate solution (18 mL), water (2×15 mL) and brine (15 mL), dried over sodium sulfate, filtered and concentrated in vacuo to a small volume and triturated with diethyl ether. The solid was collected by filtration, washed with hexanes and dried in vacuo to afford ethyl 2-(2-aminophenylamino)-4-methylthiazole-5-carboxylate as a white solid (0.31 g, 77% yield): 1H NMR (300 MHz, CDCl3) δ 7.31-7.24 (m, 1H), 7.17-7.12 (m, 1H), 6.84-6.77 (m, 2H), 4.45-4.06 (m, 5H), 2.48 (s, 3H), 1.25 (t, J=7.05 Hz, 3H); MS (ES+) m/z 278.0 (M+1).

reactant | 4-Methyl-2-(2-nitrophenylamino)thiazole-5-carboxylate | 1.46 mmol, 0.45 g | CC=1N=C(SC1C(=O)[O-])NC1=C(C=CC=C1)[N+](=O)[O-]
reactant | tin(II) chloride | [Sn](Cl)Cl
reactant | sodium carbonate | 16 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | ethyl 2-(2-aminophenylamino)-4-methylthiazole-5-carboxylate | 0.31 g, 77% yield | NC1=C(C=CC=C1)NC=1SC(=C(N1)C)C(=O)OCC | C13H15N3O2S
